US05968982
16-Bromo-2,2-dichlorohexadecanoic acid (4)
Analogously to example 1 from 2.0 g (5.6 mmol) 1,14-dibromotetradecane and 2.3 g (22.5 mmol) dichloroacetic acid. Yield 0.58 g (23%), melting point 61-63° C.

reactant | 1,14-dibromotetradecane | 5.6 mmol, 2.0 g | BrCCCCCCCCCCCCCCBr | C14H28Br2
reactant | dichloroacetic acid | 22.5 mmol, 2.3 g | ClC(C(=O)O)Cl | C2H2Cl2O2
product | 16-Bromo-2,2-dichlorohexadecanoic acid | BrCCCCCCCCCCCCCCC(C(=O)O)(Cl)Cl | C16H29BrCl2O2
